US08258135B2
In a 10-20 mL Emrys™ process vial, a mixture of the ethyl 1-formyl-4-oxo-4H-quinolizine-3-carboxylate (684 mg, 2.79 mmol), 4-pyridin-2-ylpiperidine-4-carbonitrile (627 mg, 3.35 mmol), glacial acetic acid (0.96 mL, 16.7 mmol) and 4.1 mL of dichloroethane was stirred vigorously. To the stirring mixture was added resin-bound MP-cyanoborohydride (2.74 g, 5.58 mmol). The mixture was heated via Emrys Optimizer™ microwave to 120° C. for 30 minutes. Filtration and solvent removal provided material, which was subjected to silica gel chromatography eluting with 55-75% EtOAc in hexanes. Collection of product containing fractions and removal of solvent afforded the ethyl 4-[(4-cyano-4-pyridin-2-ylpiperidin-1-yl)methyl]-1-oxo-1,8a-dihydronaphthalene-2-carboxylate.

reactant | ethyl 1-formyl-4-oxo-4H-quinolizine-3-carboxylate | 2.79 mmol, 684 mg | C(=O)C=1C=C(C(N2C=CC=CC12)=O)C(=O)OCC | C13H11NO4
reactant | 4-pyridin-2-ylpiperidine-4-carbonitrile | 3.35 mmol, 627 mg | N1=C(C=CC=C1)C1(CCNCC1)C#N | C11H13N3
reactant | acetic acid | 16.7 mmol, 0.96 mL | C(C)(=O)O | C2H4O2
reactant | dichloroethane | 4.1 mL | ClC(C)Cl | C2H4Cl2
reactant | cyanoborohydride | 5.58 mmol, 2.74 g | C(#N)[BH3-]
product | ethyl 4-[(4-cyano-4-pyridin-2-ylpiperidin-1-yl)methyl]-1-oxo-1,8a-dihydronaphthalene-2-carboxylate | C(#N)C1(CCN(CC1)CC=1C=C(C(C2C=CC=CC12)=O)C(=O)OCC)C1=NC=CC=C1 | C25H25N3O3
